US08703805B2
Preparation of 2-[4-Bromo-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-propan-2-ol
To a stirred solution of 2-[5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-propan-2-ol (254 mg, 0.5 mmol) in dry MeCN was added N-bromosuccinimide (94 mg, 0.53 mmol) at 20° C. and the reaction mixture was stirred at 20° C. overnight. Evaporation of solvent gave a residue, which was purified by flash chromatography on silica gel eluted with EtOAC-hexane (0-60%) to afford the title compound as a white solid (286 mg, 98%). 1H-NMR (CDCl3): δ 8.05 (m, 1H), 7.85-7.81 (m, 2H), 7.76 (m, 1H), 7.63-7.61 (m, 2H), 7.56 (t, 1H), 7.39 (m, 1H), 7.25 (d, 1H), 6.98 (d, 1H), 3.09 (s, 1H), 3.07 (s, 3H), 1.74 (s, 6H).

reactant | 2-[5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-propan-2-ol | 0.5 mmol, 254 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(C)(C)O | C24H21F3N2O3S2
reactant | N-bromosuccinimide | 0.53 mmol, 94 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | CC#N | C2H3N
product | 2-[4-Bromo-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-propan-2-ol | 286 mg, 98% | BrC=1C(=NN(C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)C(F)(F)F)C(C)(C)O | C24H20BrF3N2O3S2
